US07491735B2
Using general procedure A, 1-Boc-4-piperidone (2.01 g, 10.09 mmol) and 4-(methanesulfonyl)aniline hydrochloride (1.69 g, 8.13 mmol) afforded 4-(4-methanesulfonyl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (1.44 g, 50%).

reactant | 1-Boc-4-piperidone | 10.09 mmol, 2.01 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | 4-(methanesulfonyl)aniline hydrochloride | 8.13 mmol, 1.69 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
product | 4-(4-methanesulfonyl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.44 g, 50% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)S(=O)(=O)C | C17H26N2O4S
